US06890919B2
8-Fluoro-11-(4-ethylpiperazin-1-yl)-dibenzo[b,f][1,4]oxazepine
Prepared in the same manner as Example 1 starting with 8-fluoro-10H-dibenzo[b,f][1,4]oxazepin-11-one (2, X=O, R1=F) with 1-ethyl piperazine. This compound was an oil with 1H NMR (400 MHz, CDCl3), 1.16 (t, 3H, J=7.2 Hz, CH3), 2.55 (q, 2H, J=7.2 Hz, —CH2—), 2.55-2.65 (broad s, 4H, piperazinyl CH2) 3.55-3.65 (broad s, 4H, piperazinyl CH2), 6.64 (ddd, 1H, J=2.4, 6.6 and 7.2 Hz), 6.82 (dd, 1H, J=2.1 and 7.5 Hz), 7.12 (dd, 1H, J=4.2 and 6.2 Hz), 7.21 (doublet of triplets, 1H, J=0.8 and 6.0 Hz), 7.23 (dd, 1H, J=0.9 and 6.3 Hz), 7.34 (dd, 1H, J=1.2 and 5.7 Hz), 7.44 (doublet of triplets, 1H, J=1.2 and 6.0 Hz).

reactant | 8-fluoro-10H-dibenzo[b,f][1,4]oxazepin-11-one | FC1=CC2=C(OC3=C(C(N2)=O)C=CC=C3)C=C1 | C13H8FNO2
reactant | 1-ethyl piperazine | C(C)N1CCNCC1 | C6H14N2
product | 8-Fluoro-11-(4-ethylpiperazin-1-yl)-dibenzo[b,f][1,4]oxazepine | FC1=CC2=C(OC3=C(C(=N2)N2CCN(CC2)CC)C=CC=C3)C=C1 | C19H20FN3O
